US05877191
Step B: (5R,6S,7S)-7-(benzyloxycarbonylamino)-6-(4-fluorophenyl)3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene
To a solution of (5R,6S,7S)-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid (128 mg, 0.304 mmol) in toluene (2 mL) were added N,N,-diisopropylethylamine (64 μL, 0.367 mmol) followed by diphenylphosphoryl azide (73 μl, 0.339 mmol). The mixture was stirred for 30 minutes at room temperature and then for 1 hour at 100° C. Benzyl alcohol (63 μL, 0.609 mmol) was then added, and the mixture was stirred for 18 hours at 100° C. The cooled mixture was diluted with ethyl acetate (30 mL), washed with saturated sodium hydrogencarbonate solution, saturated brine solution, dried (Na2SO4), and evaporated. Silica gel chromatography eluting with 30% ethyl acetate/hexane afforded the title compound; yield 49 mg. The 400 MHz NMR spectrum in CD3OD was in accord with the desired structure.

reactant | (5R,6S,7S)-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid | 0.304 mmol, 128 mg | FC1=CC=C(C=C1)[C@H]1[C@]2(C=C(CO2)C2=C(C=CC(=C2)C#N)OC(C)C)CC[C@@H]1C(=O)O | C25H24FNO4
reactant | N,N,-diisopropylethylamine | 0.367 mmol, 64 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenylphosphoryl azide | 0.339 mmol, 73 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Benzyl alcohol | 0.609 mmol, 63 μL | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (5R,6S,7S)-7-(benzyloxycarbonylamino)-6-(4-fluorophenyl)3-(5-cyano-2-isopropoxy-phenyl)-1-oxaspiro[4.4]non-3-ene | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H]([C@]2(C=C(CO2)C2=C(C=CC(=C2)C#N)OC(C)C)CC1)C1=CC=C(C=C1)F | C32H31FN2O4
